US07232822B2
1 L, two-neck, round-bottomed-flask was fitted with a glass stopper and reflux condenser connected to a calcium tube. (N-Fmoc-N′-methyl-hydrazino)-acetic acid t-butyl ester (20 g, 52 mmol) was added. A solution of HCl (150 mL, 4 M solution in dioxane) was added slowly with vigorous stirring in an ice water bath. The reaction mixture was stirred at RT over 1 day. The solution was concentrated completely under reduced pressure at 40° C. A saturated aq. NaHCO3 solution (100 mL) was added and the aqueous layer was washed with diethyl ether (100 mL). Conc. HCl was added dropwise slowly at 0° C. (pH 2–3). The mixture was extracted and the organic layer was retained (500 mL, MC). The solution was dried with sodium sulfate and evaporated in vacuo. The residue was purified by recrystallization with n-hexane and ethyl acetate to give (N-Fmoc-N′ methyl-hydrazino)-acetic acid (12 g, 72%). 1H-NMR (DMSO-d6) δ 12.38 (s, 1H), 8.56 (b, 1H), 7.89˜7.86 (d, J=9 Hz, 2H,), 7.70˜7.67 (d, J=9 Hz, 2H,), 7.43˜7.29 (m, 4H), 4.29˜4.27 (d, J=6 Hz, 2H), 4.25˜4.20 (t, J=6 Hz, 1H), 3.47 (s, 2H), 2.56 (s, 3H).

reactant | (N-Fmoc-N′-methyl-hydrazino)-acetic acid t-butyl ester | 52 mmol, 20 g | C(C)(C)(C)OC(CN(NC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O | C22H26N2O4
solvent | HCl | 4 M, 150 mL | Cl | ClH
product | (N-Fmoc-N′ methyl-hydrazino)-acetic acid | 12 g, 72% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(NC)CC(=O)O | C18H18N2O4
